US05728708
10.0 g (32 mmol) of N-(3-chloro-phenyl)-4-(N-oxido-4-pyridyl)-2-pyrimidineamine are stirred for 24 h in 100 ml of phosphorus oxychloride at 110°. The reaction mixture is stirred at 50° into 2N sodium hydroxide solution and extracted with tetrahydrofuran. Concentration and crystallisation (tetrahydrofuran/ethanol) of the residue give N-(3-chloro-phenyl)-4-(2-chloro4-pyridyl)-2-pyrimidineamine; m.p. 196°-198°, Rf =0.7 (methylene chloride:methanol=95:5).

reactant | N-(3-chloro-phenyl)-4-(N-oxido-4-pyridyl)-2-pyrimidineamine | 32 mmol, 10.0 g | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC=[N+](C=C1)[O-] | C15H11ClN4O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | phosphorus oxychloride | 100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | N-(3-chloro-phenyl)-4-(2-chloro4-pyridyl)-2-pyrimidineamine | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)Cl | C15H10Cl2N4
